2185-11-16 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt intubated for airway protection given poor mental .
   Blood Cx, Urine Cx, Sputum cx sent
   Paracentesis performed
   Albumin 25g in 500cc given x2, and small amount of normal saline
   HEAD-CT
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Hives; Rash;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2185-11-16**] 12:10 AM
   Azithromycin - [**2185-11-16**] 02:00 AM
   Vancomycin - [**2185-11-16**] 02:55 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-11-15**] 09:20 PM
   Heparin Sodium (Prophylaxis) - [**2185-11-15**] 09:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-11-16**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 113 (113 - 131) bpm
   BP: 102/60(69) {102/57(69) - 141/85(96)} mmHg
   RR: 19 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 24 Inch
           Total In:
                                                                    747 mL
                                                                  1,242 mL
   PO:
           TF:
   IVF:
                                                                    330 mL
                                                                    659 mL
   Blood products:
                                                                    417 mL
                                                                    583 mL
   Total out:
                                                                    233 mL
                                                                    190 mL
   Urine:
                                                                    108 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    514 mL
                                                                  1,052 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 602 (441 - 602) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.50/30/89.[**Numeric Identifier 126**]/21/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 178
   Physical Examination
   GEN: intubated, not on sedation, unresponsive to voice, withdraws and
   grimaces  to noxious stimuli.
   HEENT: PERRL, icteric sclera,  eyes deviated to R and inferiorly, when
   held open, will move towards center/inferior, but not beyond. Dry mucus
   membrane
   CARD: RRR, s1, s2 wnl, 1-2/6 systolic murmur at LSB, no rubs, no
   gallops
   PULM: CTA bilaterally, mild diffuse rhonchi, likely referred upper
   airwary sounds.
   ABD: Obese, distended, nontympanetic, large ventral and umbilical
   hernias.
   SKIN: dry psoriatic skin at LE and hair, melanic/bronzed skin coloring,
   diffuse lesions, evulsions, and large bullae, and lae pe. Also a
   diffuse maculopaplar rash on proximal legs ad
   Neurologic: dolls eye refelex intact, minimal relaxreflexes 2+ bil,
   upper and lower extremities, toes downgoing bil,
   Labs / Radiology
   156 K/uL
   10.3 g/dL
   99 mg/dL
   1.8 mg/dL
   21 mEq/L
   5.5 mEq/L
   27 mg/dL
   107 mEq/L
   137 mEq/L
   29.4 %
   16.0 K/uL
        [image002.jpg]
   CBC: 16.4* 2.68* 8.2* 24.0*
   COAGs: 22.1* 59.0*   2.1*
                             [**2185-11-15**]  06:05 PM
                             [**2185-11-16**]  12:03 AM
   WBC
   16.0
   Hct
   29.4
   Plt
   156
   Cr
   1.8
   TCO2
   24
   Glucose
   99
   Other labs: PT / PTT / INR:20.3/45.0/1.9, ALT / AST:25/40, Alk Phos / T
   Bili:107/3.1, Differential-Neuts:75.0 %, Lymph:17.8 %, Mono:5.0 %,
   Eos:1.6 %, Lactic Acid:3.0 mmol/L, Albumin:3.1 g/dL, LDH:242 IU/L,
   Ca++:10.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Tox S : NEG
   ASCITES : -SBP
   UA: -Nit, -Leuk, - 354 RBC, 111 WBC,
   CXR: Compared to 923, increased perhilar density.
   Assessment and Plan
   59yo woman with altered mental status in the setting of Hep C
   cirrhosis.
   # Altered Mental Status:
   Most likely due to hepatic encephalopathy given questionnable
   compliance with lactulose at home.  Of note, she has not had other
   episodes of hepatic encephalopathy prior to this.  However she is now
   status post TIPS placement and may have developed new baseline for his
   fluid dynamics. Head CT at OSH and at [**Hospital1 19**] were negative.  Would also
   consider infection (particularly SBP or pneumonia), especially in light
   of her leukocytosis.  Overdose is also a possibility, although family
   denies drug use. Pt also has some evidence of focal neurological
   findings on exam.
   - lactulose
   - UA, UCx (given recent UTI), BCx, sputum Cx pending. Will fu.
   - Initial treatment with vanc/meropenem/azithromycin (allergic to cipro
   and keflex) for nosocomial or aspiration PNA vs SBP, but now given CXR
   not consistent atypical PNA and no evidence of a staph PNA, vanc and
   azithromycin wil be dc
   - avoid sedating medications
   - thiamine IV in case there is h/o alcohol abuse
   - Given focal neurological findings
             - Neurology consult
             - Order MRI/MRA, discuss with Neurology
   # Respiratory failure:
   Patient was intubated for airway protection at OSH.  Of note, her CXR
   suggests possible aspiration pneumonia.  It is unclear if she received
   IVF at OSH. Pt likely fluid overload, but has maintained good sats
   here. Has been satting well this am on PS 5/5.
   - keep intubated for poor mental status, and for procedures (e.g MRA)
   - currently not requiring sedation; would switch to pressure support as
   she wakes up
   - treat possible PNA as above
   # Rash: has three skin findings. [**Last Name (un) 2493**], blisters/breakdown, and a
   diffuse maculopapular rash on proximal legs and trunk. The bilsters and
   [**Last Name (un) **] are thought to be chronic , possibly manifestations of her
   psoriasis or [**3-12**] to her long term methotrexate use, though may also
   represent another process. The diffuse maculopapular rash appears to be
   newer, and looks more like a hypersensitivity reaction, likely to an
   antibiotic. Pt has known allergies to Keflex ad Cipro, and had received
   ertapenem at the OSH.  Also need to consider skin findings as [**3-12**] to
   sepsis.
   -Derm consult for rashes
   -Hold off on antihistamines until after seen by Derm
   - Follow up on BCx
   # Cirrhosis [**3-12**] Hep C
   - appreciate hepatology recs
   - Lactulose
   - Refaximine
   # Sinus tachycardia:
   Suspect she is somewhat intravascularly dry given Hct above baseline,
   poor urine output, and tachycardia above baseline, although some level
   of tachyardia appears to be chronic in her. However, her CXR appears
   fluid overloaded, consistent with her diastolic heart failure.  Her HR
   may be exacerbated by acute illness. Has had albumin 25g in 500cc NS
   x2, but this is not a sufficient fluid trial.
   - hold diuretics for now,
   - F/u TSH
   - monitor on tele and follow sats
   - Full challenge, 3 days of 1gm/kg albumin, works out to 50-50g albumin
   # Chronic diastolic heart failure:
   Currently appears hypovolemic.  Hold diuretics for now.
   - likely restart lasix and spironolactone tomorrow, depending on
   outcomes of studies
   # Chronic Kidney Disease:  baseline Cr 1.8-2.0, current Cr 2.0
   - currently has poor urine output
   - check urine lytes and monitor urine after giving albumin with saline
   # Skin tear on right leg/blisters:
   - wound care c/s
   - DERM CONSULT
   # Thyroid nodule;
   - outpatient f/u
   # FEN:  start tube feeds in AM if unable to extubate; monitor K+ given
   hyperkalemia
   # PPx:  subQ heparin, PPI
   # Code:  confirmed FULL with family
   # Dispo:  MICU for now
   # Comm:  with son [**Name (NI) 2477**] [**Telephone/Fax (1) 2478**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-11-16**] 12:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-11-16 09:04:00 Physician Attending Progress Note
Chief Complaint: encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2185-11-15**] 05:00 PM
 BLOOD CULTURED - At [**2185-11-15**] 07:00 PM
 URINE CULTURE - At [**2185-11-15**] 11:12 PM
 PARACENTESIS - At [**2185-11-15**] 11:45 PM
   + UA
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Hives; Rash;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2185-11-16**] 12:10 AM
   Azithromycin - [**2185-11-16**] 02:00 AM
   Vancomycin - [**2185-11-16**] 02:55 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-11-15**] 09:20 PM
   Heparin Sodium (Prophylaxis) - [**2185-11-15**] 09:20 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2185-11-16**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 127 (113 - 131) bpm
   BP: 119/62(77) {102/57(69) - 141/85(96)} mmHg
   RR: 22 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 24 Inch
           Total In:
                                                                    747 mL
                                                                  1,374 mL
   PO:
           TF:
   IVF:
                                                                    330 mL
                                                                    791 mL
   Blood products:
                                                                    417 mL
                                                                    583 mL
   Total out:
                                                                    233 mL
                                                                    273 mL
   Urine:
                                                                    108 mL
                                                                    273 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    514 mL
                                                                  1,101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 519 (441 - 602) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.50/30/89.[**Numeric Identifier 126**]/20/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Gen: intubated and sedated
   HEENT:  pupils 2mm reactive, left eye with fixed medial deviation,
   right eye laterally deviated but able to move toward midline
   CV: RR
   Chest: fair air movement
   Abd: reducible ventral and periumbilical hernia, + BS
   Ext: 5 cm bullous lesions over left shoulder and on left arm, also
   diffuse macpap rash on lower ext
   Neuro: min responsive to tactile stim only, moving all ext but right
   arm withdrawing and posturing to pain
   Labs / Radiology
   8.2 g/dL
   108 K/uL
   113 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.8 mEq/L
   27 mg/dL
   107 mEq/L
   140 mEq/L
   24.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2185-11-15**]  06:05 PM
                             [**2185-11-16**]  12:03 AM
                             [**2185-11-16**]  06:00 AM
   WBC
   16.0
   16.4
   Hct
   29.4
   24.0
   Plt
   156
   108
   Cr
   1.8
   1.7
   TCO2
   24
   Glucose
   99
   113
   Other labs: PT / PTT / INR:22.1/59.0/2.1, ALT / AST:21/36, Alk Phos / T
   Bili:78/4.1, Differential-Neuts:77.3 %, Lymph:15.9 %, Mono:5.1 %,
   Eos:1.5 %, Lactic Acid:3.0 mmol/L, Albumin:3.4 g/dL, LDH:185 IU/L,
   Ca++:10.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS, CHRONIC VIRAL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 TACHYCARDIA, OTHER
 ANEMIA, CHRONIC
   1.       Altered mental Status: most likely etiology seems exacerbation
   of hepatic encephalopathy but with focal ocular findings are concerning
   for seizures, CVA, peripheral nerve injury. We will consult Neurology
   for inout and plan for MRI/MRA
   2.       Rash: two components
 bullous bloody lesions
 very friable
   skin and mild coagulopathy but could this be a toxic epidermal
   necrosis. MacPap may be from the carbapenem in the OSH. Holding all
   unnecessary meds
 Derm consult for biopsy
   3.       UTI: cx pending
 covering with Aztreonam
   4.       Resp Failure: PSV, has reasonable RSBI, extubation mainly
   limited by mental status and plans for procedures now
   5.       Sinus Tach: DDx intravasc dry, trying albumin challenge trend
   Urine Na and UOP and CR
   6.       CRF: at baseline but moving target and with low urine Na
   volume challenge renally dose all meds
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: start TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-11-16**] 12:19 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  contact son
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 45

2185-11-17 10:04:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2185-11-16**] 09:53 AM
 ARTERIAL LINE - START [**2185-11-16**] 04:00 PM
 ARTERIAL LINE - STOP [**2185-11-16**] 04:30 PM
 MAGNETIC RESONANCE IMAGING - At [**2185-11-16**] 06:42 PM
 ULTRASOUND - At [**2185-11-16**] 07:03 PM
   assessing patency of TIPS
 SPUTUM CULTURE - At [**2185-11-16**] 08:15 PM
 BLOOD CULTURED - At [**2185-11-16**] 08:20 PM
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Hives; Rash;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2185-11-16**] 02:00 AM
   Vancomycin - [**2185-11-16**] 11:00 PM
   Metronidazole - [**2185-11-17**] 04:00 AM
   Aztreonam - [**2185-11-17**] 05:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-11-16**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2185-11-17**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-11-17**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.8
   HR: 108 (108 - 138) bpm
   BP: 106/56(66) {82/36(45) - 127/64(80)} mmHg
   RR: 13 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 24 Inch
           Total In:
                                                                  4,673 mL
                                                                  1,034 mL
   PO:
           TF:
   IVF:
                                                                  2,450 mL
                                                                    288 mL
   Blood products:
                                                                  2,083 mL
                                                                    656 mL
   Total out:
                                                                    738 mL
                                                                    994 mL
   Urine:
                                                                    738 mL
                                                                    194 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,935 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 491 (400 - 643) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.47/30/150/22/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 375
   Physical Examination
   Gen: intubated, awake, interactive
   HEENT:  pupils 2mm reactive,
   CV: RR
   Chest: fair air movement
   Abd: reducible ventral and periumbilical hernia, + BS
   Ext: 5 cm bullous lesions over left shoulder and on left arm, also
   diffuse macpap rash on lower ext
   Neuro: responding to commands,
   Labs / Radiology
   6.5 g/dL
   93 K/uL
   110 mg/dL
   1.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   28 mg/dL
   111 mEq/L
   142 mEq/L
   18.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2185-11-15**]  06:05 PM
                             [**2185-11-16**]  12:03 AM
                             [**2185-11-16**]  06:00 AM
                             [**2185-11-16**]  10:25 AM
                             [**2185-11-17**]  03:07 AM
                             [**2185-11-17**]  03:59 AM
   WBC
   16.0
   16.4
   12.0
   Hct
   29.4
   24.0
   18.1
   18.9
   Plt
   156
   108
   93
   Cr
   1.8
   1.7
   1.8
   TCO2
   24
   22
   Glucose
   99
   113
   110
   Other labs: PT / PTT / INR:24.4/86.0/2.4, ALT / AST:17/28, Alk Phos / T
   Bili:58/4.6, Differential-Neuts:77.3 %, Lymph:15.9 %, Mono:5.1 %,
   Eos:1.5 %, Lactic Acid:3.2 mmol/L, Albumin:3.4 g/dL, LDH:185 IU/L,
   Ca++:11.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS, CHRONIC VIRAL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 TACHYCARDIA, OTHER
 ANEMIA, CHRONIC
   1.       Altered mental Status: most likely etiology seems exacerbation
   of hepatic encephalopathy esp now with evidence TIPS may be
   malfunctioning. Acute ocular changes have resolved and prelim MRI
   without acute changes. Appreciate Neuro assistance.
   2.       Hypotension: overnight low BP and given blood and albumin with
   response. DDX is volume loss anemia
 getting blood, but is also
   febrile so evolving sepsis is a concern. Sources PNA, primary abd
   source,  get ABd CT and maintain broad ABX coverage, Cycle HCT q4
   3.       Rash: two components
 bullous bloody lesions
 very friable
   skin and mild coagulopathy _Appreciate Derm insight. We will send labs
   for porphyria cutanea tarda but likely very poor skin. MacPap rash
   likely from OSH carbapenem
actually improving. . resolving. may be
   from the carbapenem in the OSH. Holding all unnecessary
   4.       UTI: cx pending
 covering with Aztreonam
   5.       Resp Failure: PSV, has reasonable RSBI, extubation today.
   6. CRF: at baseline but moving target and with low urine Na
 volume
   challenge renally dose all meds
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-11-16**] 12:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: chlorhex,
   Communication:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2185-11-18 05:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PICC Line Placed
   Advance Diet to Full Liquids
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Hives; Rash;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2185-11-16**] 02:00 AM
   Vancomycin - [**2185-11-17**] 08:00 PM
   Metronidazole - [**2185-11-17**] 09:00 PM
   Aztreonam - [**2185-11-17**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-11-17**] 08:25 AM
   Pantoprazole (Protonix) - [**2185-11-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Increased itchiness,
I want to leave the ICU and
   go upstairs
   Flowsheet Data as of  [**2185-11-18**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.3
   HR: 93 (93 - 125) bpm
   BP: 96/54(63) {90/43(55) - 113/66(76)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,278 mL
                                                                    174 mL
   PO:
                                                                    460 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    938 mL
                                                                     54 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,841 mL
                                                                     15 mL
   Urine:
                                                                    541 mL
                                                                     15 mL
   NG:
   Stool:
                                                                  1,500 mL
   Drains:
   Balance:
                                                                    437 mL
                                                                    159 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 572 (491 - 572) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 10.3 L/min
   Physical Examination
   Physical Examination
   GEN: Extubated,  responsive to commands AO to location, person not day,
   month or year
   HEENT: EOMI, PERRL, icteric sclera, Dry mucus membrane
   CARD: RRR, s1, s2 wnl, 2/6 systolic murmur at LSB, no rubs, no gallops
   PULM: CTA bilaterally, mild diffuse rhonchi, likely referred upper
   airwary sounds.
   ABD: Distended, nontympantic, umbilical hernias.
   SKIN: Dry psoriatic skin at LE Bilaterally, melanic/bronzed skin
   coloring, diffuse lesions, evulsions, and large bullae,. Improved
   diffuse maculopaplar rash on proximal legs and abdomen.
   Neurologic: Gross movement of 4 extremities
   Labs / Radiology
   99 K/uL
   8.3 g/dL
   159 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.0 mEq/L
   31 mg/dL
   109 mEq/L
   140 mEq/L
   24.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2185-11-15**]  06:05 PM
                             [**2185-11-16**]  12:03 AM
                             [**2185-11-16**]  06:00 AM
                             [**2185-11-16**]  10:25 AM
                             [**2185-11-17**]  03:07 AM
                             [**2185-11-17**]  03:59 AM
                             [**2185-11-17**]  10:17 AM
                             [**2185-11-17**]  05:28 PM
                            [**2185-11-18**]  03:15 AM
   WBC
   16.0
   16.4
   12.0
   9.7
   Hct
   29.4
   24.0
   18.1
   18.9
   24.9
   25.9
   24.2
   Plt
   156
   108
   93
   99
   Cr
   1.8
   1.7
   1.8
   1.9
   TCO2
   24
   22
   Glucose
   99
   113
   110
   159
   Other labs: PT / PTT / INR:24.4/86.0/2.4, ALT / AST:17/28, Alk Phos / T
   Bili:58/3.8, Differential-Neuts:77.3 %, Lymph:15.9 %, Mono:5.1 %,
   Eos:1.5 %, Fibrinogen:82 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:3.6
   g/dL, LDH:185 IU/L, Ca++:10.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 59yF with Hep C, Methotrexate Induced cirrhosis p/w hepatic
   encephalopahy
   # Hepatic Encephalopathy: Improved overnight. Pt still not at baseline
   mental status.  Liver following closely.
   - Cont lactulose, rifaxamin
   - Liver Team following closely, will f/u Recs
   - TIPS revision would not be until patient is stabilized and at the
   earliest after the weekend.
   # Infectious Work-Up: Afebrile overnight wth improved leukocytosis.
   [**Year (4 digits) 2577**] with gram + Cocci in chains.  DDx includes skin/soft tissue infx,
   HCAP / Asp PNA. Less likely UTI.
   -          f/u cultures
   -          Continue Surveillance [**Last Name (LF) 2577**], [**First Name3 (LF) **] wait for Gram + cocci
   speciation.
   -          Cont empirically treating with Vanc/Aztreonam/Flagyl for
   HAP/Asp PNA (Day #[**4-16**])
   # Anemia: Pt Hct 24, an appropriate bump from receiving 2 units
   yesterday.  Full hemolysis labs and peripheral smear pending. CT abd
   negative for intrabdominal or retroperitoneal bleed.
   -          f/u hemolysis labs, peripheral smear
   # Rash: Stable ecchymoses since yesterday. Porphobilogen Screen
   negative. Bullea and breakdown stable and now well wrapped. Improved
   maculopapular rash on proximal legs and trunk.  Etiologies remain
   unclear.  drug rash vs LT steroid use.  - - - Will add carbapenems as
   allergy to patients medical record
   - Derm following
   - Wound Care Following
   - Clobesterol Topically
   # Cirrhosis [**3-12**] Hep C, Methotrexate. MELD 27 yesterday. (From baseline
   15-16 in [**8-27**] in [**Month (only) 539**])
   - appreciate hepatology recs
   - Cont Lactulose
   - Cont Rifaximine
   # Refractory ascites: Abdomen protuberant.
   - Holding diuretics given low BP
   - No indication for therapeutic paracentesis currently
   # CKD: Previously treated for potential HepatoRenal syndrome.  Baseline
   Cr 1.8-2.0, current Cr 1.9
   - Following Cr closely
   # Thyroid nodule;
   - outpatient f/u
   # FEN:  Regular Na restriction Diet / Repleting K, Mg
   # Access: PIV 18 x1,  PICC
   # PPx:  PPI
   # Code:  confirmed FULL with family
   # Dispo:  Call out to [**Doctor Last Name 976**] [**Doctor Last Name 2578**] Today
   # Comm:  with son [**Name (NI) 2477**] [**Telephone/Fax (1) 2478**]

2185-11-18 09:32:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ANGIOGRAPHY - At [**2185-11-17**] 03:00 PM
   PICC line placement
 PICC LINE - START [**2185-11-17**] 03:00 PM
 INVASIVE VENTILATION - STOP [**2185-11-17**] 03:48 PM
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Hives; Rash;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2185-11-16**] 02:00 AM
   Vancomycin - [**2185-11-17**] 08:00 PM
   Metronidazole - [**2185-11-17**] 09:00 PM
   Aztreonam - [**2185-11-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-11-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-11-18**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 97 (92 - 109) bpm
   BP: 101/61(71) {85/43(55) - 110/66(76)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,278 mL
                                                                    725 mL
   PO:
                                                                    460 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    938 mL
                                                                    245 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,841 mL
                                                                    990 mL
   Urine:
                                                                    541 mL
                                                                     90 mL
   NG:
   Stool:
                                                                  1,500 mL
   Drains:
   Balance:
                                                                    437 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 572 (572 - 572) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 10.3 L/min
   Physical Examination
   Gen: awake, interactive
   HEENT:  pupils 2mm reactive,
   CV: RR
   Chest: fair air movement, [**Month (only) **] BS both bases
   Abd: reducible ventral and periumbilical hernia, + BS
   Ext: 5 cm bullous lesions over left shoulder and on left arm, also
   diffuse macpap rash on lower ext
   Neuro: responding to commands,   asking questions not oriented to date
   or year but knows she is at [**Hospital1 7**]
   Labs / Radiology
   8.3 g/dL
   99 K/uL
   159 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.0 mEq/L
   31 mg/dL
   109 mEq/L
   140 mEq/L
   24.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2185-11-15**]  06:05 PM
                             [**2185-11-16**]  12:03 AM
                             [**2185-11-16**]  06:00 AM
                             [**2185-11-16**]  10:25 AM
                             [**2185-11-17**]  03:07 AM
                             [**2185-11-17**]  03:59 AM
                             [**2185-11-17**]  10:17 AM
                             [**2185-11-17**]  05:28 PM
                            [**2185-11-18**]  03:15 AM
   WBC
   16.0
   16.4
   12.0
   9.7
   Hct
   29.4
   24.0
   18.1
   18.9
   24.9
   25.9
   24.2
   Plt
   156
   108
   93
   99
   Cr
   1.8
   1.7
   1.8
   1.9
   TCO2
   24
   22
   Glucose
   99
   113
   110
   159
   Other labs: PT / PTT / INR:24.4/86.0/2.4, ALT / AST:17/28, Alk Phos / T
   Bili:58/3.8, Differential-Neuts:77.3 %, Lymph:15.9 %, Mono:5.1 %,
   Eos:1.5 %, Fibrinogen:82 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:3.6
   g/dL, LDH:185 IU/L, Ca++:10.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS, CHRONIC VIRAL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 TACHYCARDIA, OTHER
 ANEMIA, CHRONIC
   1.       Altered mental Status: most likely etiology seems exacerbation
   of hepatic encephalopathy esp now with evidence TIPS may be
   malfunctioning. Btter with Lactulose- continue and re eavl next week
   for any questions about TIP revision.
   2.       Hypotension: resolved after volume resuciation with blood and
   albumin
   3.       Anemia: blood loss after multiple procedures
 bumped with Tx
   and holding trend
   4.       Rash: two components
 bullous bloody lesions
 very friable
   skin and mild coagulopathy _Appreciate Derm insight. Porphyria cutanea
   tarda negative. MacPap rash likely from OSH carbapenem
actually
   improving.
   5.       5. CRF: at baseline but moving target and with low urine Na
   volume challenge renally dose all meds
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-11-16**] 12:19 AM
   PICC Line - [**2185-11-17**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: ppi
   Communication:  met with family
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: